US07714009B2
N-Mesityl-5-methyl-7-nitro-1,3-benzothiazol-2-amine
To a solution of 5-chloromethyl-N-mesityl-7-nitro-1,3-benzothiazol-2-amine (120 mg, 0.332 mmol) in dimethyl sulfoxide (DMSO) (2 ml) was added sodium borohydride (25 mg, 0.663 mmol). The mixture was stirred at room temperature for 3 h and diluted with water and neutralized with 1N HCl solution. The aqueous solution was extracted with AcOEt.

reactant | 5-chloromethyl-N-mesityl-7-nitro-1,3-benzothiazol-2-amine | 0.332 mmol, 120 mg | ClCC=1C=C(C2=C(N=C(S2)NC2=C(C=C(C=C2C)C)C)C1)[N+](=O)[O-] | C17H16ClN3O2S
reactant | sodium borohydride | 0.663 mmol, 25 mg | [BH4-].[Na+]
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | HCl | 1N | Cl | ClH
product | N-Mesityl-5-methyl-7-nitro-1,3-benzothiazol-2-amine | C1(=C(C(=CC(=C1)C)C)NC=1SC2=C(N1)C=C(C=C2[N+](=O)[O-])C)C | C17H17N3O2S
